US04923993
Preparation of 5-n-butyl-2-cyanopyridine
0.1 mole of 1-dimethylamino-1-aza-3-n-butyl-1,3-butadiene, 0.1 mole of 2-chloroacrylonitrile and 0.2 mole of triethylamine are heated in 100 ml of acetonitrile for 20 hours to 60° C. The reaction mixture is concentrated by evaporation and the residue is dissolved in dioxane. The solution is filtered and gaseous HCl is introduced. The batch is stirred for 15 minutes at room temperature and then concentrated by evaporation. The residue is partitioned between CH2Cl2 and 1N NaHCO3. The organic phase is dried, concentrated by evaporation and distilled under a high vacuum, affording 10.0 g (63%) of a yellowish oil with a boiling point of 86°-87° C./3·10-1 mbar.

reactant | 1-dimethylamino-1-aza-3-n-butyl-1,3-butadiene | 0.1 mole | CN(C=CC(=C)NCCC)C | C9H18N2
reactant | 2-chloroacrylonitrile | 0.1 mole | ClC(C#N)=C | C3H2ClN
reactant | triethylamine | 0.2 mole | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-n-butyl-2-cyanopyridine | 10.0 g, 63% | C(CCC)C=1C=CC(=NC1)C#N | C10H12N2
